US07790733B2
c) (2-Bromo-4-chloro-6-methoxy-3-methyl-phenyl)-carbamic acid tert-butyl ester
A suspension of N,N-di(tert-butyloxycarbonyl)-2-bromo-4-chloro-6-methoxy-3-methyl-phenylamine (4.1 g, 9.1 mmol) in methanol (90 ml) was heated to reflux with potassium carbonate (3.77 g, 27 mmol) for 2 days. The reaction was filtered, washed with methanol, and the solvent of the filtrate was evaporated. The residue was dissolved in diethyl ether, washed with cold 1N aqueous hydrogen chloride solution and with saturated sodium chloride solution, dried over sodium sulfate, filtered, and the solvent was evaporated. The residue was stirred for 15 minutes with heptane. The product (2.6 g, 82%) precipitated as an off-white solid and isolated by filtration.

reactant | N,N-di(tert-butyloxycarbonyl)-2-bromo-4-chloro-6-methoxy-3-methyl-phenylamine | 9.1 mmol, 4.1 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=C(C(=C(C=C1OC)Cl)C)Br | C18H25BrClNO5
reactant | potassium carbonate | 27 mmol, 3.77 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 90 ml | CO | CH4O
product | (2-Bromo-4-chloro-6-methoxy-3-methyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C(=C(C=C1OC)Cl)C)Br)=O | C13H17BrClNO3
